US09169254B2
2-Cyclohexyl-8-(2-o-tolyl-ethanesulfonyl)-1,3,8-triaza-spiro[4.5]dec-1-en-4-one (24.2 mg, 0.058 mmol), Lawesson's reagent (48.3 mg, 0.116 mmol) and toluene (1.16 ml) were added to a sealed test tube and stirred at 110° C. overnight. The reaction mixture was cooled to ambient temperature, and the solvent was then distilled off under reduced pressure. The residue was purified by column chromatography (silica gel, CH2Cl2-MeOH) to give 2-cyclohexyl-8-(2-o-tolyl-ethanesulfonyl)-1,3,8-triaza-spiro[4.5]dec-1-ene-4-thione (11.2 mg, 45%).

reactant | 2-Cyclohexyl-8-(2-o-tolyl-ethanesulfonyl)-1,3,8-triaza-spiro[4.5]dec-1-en-4-one | 0.058 mmol, 24.2 mg | C1(CCCCC1)C1=NC2(C(N1)=O)CCN(CC2)S(=O)(=O)CCC2=C(C=CC=C2)C | C22H31N3O3S
reactant | Lawesson's reagent | 0.116 mmol, 48.3 mg | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | toluene | 1.16 ml | C1(=CC=CC=C1)C | C7H8
product | 2-cyclohexyl-8-(2-o-tolyl-ethanesulfonyl)-1,3,8-triaza-spiro[4.5]dec-1-ene-4-thione | 11.2 mg, 45% | C1(CCCCC1)C1=NC2(C(N1)=S)CCN(CC2)S(=O)(=O)CCC2=C(C=CC=C2)C | C22H31N3O2S2
